US05326760
(a) 4-[2-(S)-[1-(R)-(1,1-dimethylethyl)Carbonyl-3-(1,3-dioxo1,3-dihydro-benzo[f]isoindol-2-yl)-propylamino]-4-methyl-pentanoylamino-methyl)-benzoic acid
100 mg of N-[(R)-1-[(1,1-dimethylethoxy)carbonyl]-3-(1,3-dihydro-1,3-dioxo-2H-benz[f]isoindol-2-yl)propyl]-L-leucine, prepared as in Example L, was added to a mixture of 0.174 mL of diisopropylethylamine, 1 mL DMF, and 1.1 mL of 0.45M hydroxybenzotriazol-benzotriazoltetramethyluronium hexafluorophosphate in DMF at 5° C. 75 mg of 4-(Aminomethyl)-benzoic acid was added and the mixture was stirred for 24 h. The solvents were removed by evaporation to give the title compound; 84 mg.

reactant | N-[(R)-1-[(1,1-dimethylethoxy)carbonyl]-3-(1,3-dihydro-1,3-dioxo-2H-benz[f]isoindol-2-yl)propyl]-L-leucine | 100 mg | CC(C)(OC(=O)[C@@H](CCN1C(C=2C=C3C(=CC2C1=O)C=CC=C3)=O)N[C@@H](CC(C)C)C(=O)O)C | C26H32N2O6
reactant | diisopropylethylamine | 0.174 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 4-(Aminomethyl)-benzoic acid | 75 mg | NCC1=CC=C(C(=O)O)C=C1 | C8H9NO2
reactant | DMF | CN(C)C=O | C3H7NO
reactant | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 4-[2-(S)-[1-(R)-(1,1-dimethylethyl)Carbonyl-3-(1,3-dioxo1,3-dihydro-benzo[f]isoindol-2-yl)-propylamino]-4-methyl-pentanoylamino-methyl)-benzoic acid | CC(C)(C)C(=O)[C@@H](CCN1C(C=2C=C3C(=CC2C1=O)C=CC=C3)=O)N[C@H](C(=O)NCC3=CC=C(C(=O)O)C=C3)CC(C)C | C34H39N3O6
